US08133908B2
Description 13: [3-(Ethyloxy)-6-methyl-2-pyridinyl]methanol (D13)
2-(hydroxymethyl)-6-methyl-3-pyridinol (1.5 g, 10.78 mmol, available from Sigma-Aldrich #144428), K2CO3 (7.45 g, 53.9 mmol) and iodoethane (1.724 ml, 21.56 mmol) were dissolved in DMF (15 ml). The mixture was left stirring at room temperature overnight. Water and EtOAc were added and the two layers were separated. The aqueous one was back-extracted several times with EtOAc. The combined organic phases were washed with brine/ice, dried (Na2SO4), filtered and concentrated under reduced pressure to afford the crude title compound D13 (1.67 g) as a pale yellow solid which was used in the next step without any further purification. MS: (ES/+) m/z: 168 (M+1). C9H13NO2 requires 167. 1H-NMR (400 MHz, CDCl3) δ (ppm): 6.96-7.07 (m, 2 H), 4.71 (s, 2 H), 4.04 (q, 2 H), 2.50 (s, 3 H), 1.43 (t, 3 H).

reactant | 2-(hydroxymethyl)-6-methyl-3-pyridinol | 10.78 mmol, 1.5 g | OCC1=NC(=CC=C1O)C | C7H9NO2
reactant | K2CO3 | 53.9 mmol, 7.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodoethane | 21.56 mmol, 1.724 ml | ICC | C2H5I
reactant | Water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [3-(Ethyloxy)-6-methyl-2-pyridinyl]methanol | C(C)OC=1C(=NC(=CC1)C)CO | C9H13NO2
